US07737149B2
Palladium, 10% on carbon (21 mg, 0.20 mmol) and methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]-3,6-dihydro-2H-pyridin-4-yl]pyrazine-2-carboxylate (183 mg, 0.57 mmol) in ethanol (5.73 mL) was stirred under an atmosphere of hydrogen at ambient temperature and atmospheric pressure for 6 h. The reaction mixture was filtered through celite and concentrated under reduced pressure to give a yellow oil. The crude product was purified by silica column chromatography, eluting with a gradient of 0 to 50% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]piperidin-4-yl]pyrazine-2-carboxylate (126 mg, 68%) as a yellow oil.

reactant | methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]-3,6-dihydro-2H-pyridin-4-yl]pyrazine-2-carboxylate | 0.57 mmol, 183 mg | CC(C)(C)OC(=O)N1CCC(=CC1)C=1N=CC(=NC1)C(=O)OC | C16H21N3O4
solvent | ethanol | 5.73 mL | C(C)O | C2H6O
catalyst | Palladium | [Pd] | Pd
product | methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]piperidin-4-yl]pyrazine-2-carboxylate | 126 mg, 68% | CC(C)(C)OC(=O)N1CCC(CC1)C=1N=CC(=NC1)C(=O)OC | C16H23N3O4
